US07060827B2
In like manner to the preparation of N4-(3-aminophenyl)-N2-[2-(methoxycarbonyl)-benzofurane-5-yl]-5-fluoro-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 2,3-dihydrobenzo[b]furan-5-ylmethylamine were reacted to give N2-[2,3-dihydrobenzo[b]furan-5-ylmethyl]-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 21.43 min.; purity: 97.5%; MS (m/e): 395.05 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 2,3-dihydrobenzo[b]furan-5-ylmethylamine | O1C2=C(CC1)C=C(C=C2)CN | C9H11NO
product | N2-[2,3-dihydrobenzo[b]furan-5-ylmethyl]-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | O1C2=C(CC1)C=C(C=C2)CNC2=NC=C(C(=N2)NC2=CC1=C(C=C2)OCCO1)F | C21H19FN4O3
